US05556860
Synthesis of 3-[1-(2-furylmethyl)piperidin-4-yl]-4-phenyl-3,4-dihydro-2(1H)-quinazolinone
To a solution of 344 mg (1.0 mmol) of 3-(piperidin-4-yl)-4-phenyl-3,4-dihydro-2(1H)-quinazolinone HCl salt and 384 mg (4.0 mmol) of furfural in 40 mL of methanol was added 123 mg (2.0 mmol) of sodium cyano-borohydride under ice-cooling. After being stirred for 12 hours at ambient temperature, the reaction mixture was concentrated in vacuo. The residue was diluted with water, and the mixture was adjusted to pH 10 with aqueous ammonia, and then extracted with chloroform. The organic layer separated was dried on potassium carbonate and then concentrated in vacuo. The residue was purified by means of column chromatography (silica gel, 1:9 methanol:chloroform) to give 329 mg (0.85 mmol) of the title compound.

reactant | 3-(piperidin-4-yl)-4-phenyl-3,4-dihydro-2(1H)-quinazolinone HCl salt | 1.0 mmol, 344 mg | Cl.N1CCC(CC1)N1C(NC2=CC=CC=C2C1C1=CC=CC=C1)=O
reactant | furfural | 4.0 mmol, 384 mg | C(C1=CC=CO1)=O | C5H4O2
reactant | sodium cyano-borohydride | 2.0 mmol, 123 mg | C(#N)[BH3-].[Na+]
solvent | methanol | 40 mL | CO | CH4O
product | 3-[1-(2-furylmethyl)piperidin-4-yl]-4-phenyl-3,4-dihydro-2(1H)-quinazolinone | 0.85 mmol, 329 mg | O1C(=CC=C1)CN1CCC(CC1)N1C(NC2=CC=CC=C2C1C1=CC=CC=C1)=O | C24H25N3O2
